US05668162
5-Mercapto-3-methyl-1-phenyl-1H-pyrazole-4-carboxylic acid (2-pyridin-2-yl-ethyl) amide
Using the procedure of Preparation 34, 29.3 g (0.087 mol) of 5-chloro-3-methyl-1-phenyl-1H-pyrazole-4-carboxylic acid (2-pyridin-2-yl-ethyl)-amide was reacted with 19.3 g (0.27 mol) sodium hydrogen sulfide in cellosolve to give 24.0 g of the title compound, which was used in Example 22 without purification.

reactant | 5-chloro-3-methyl-1-phenyl-1H-pyrazole-4-carboxylic acid (2-pyridin-2-yl-ethyl)-amide | 0.087 mol, 29.3 g | N1=C(C=CC=C1)CCNC(=O)C=1C(=NN(C1Cl)C1=CC=CC=C1)C | C18H17ClN4O
reactant | sodium hydrogen sulfide | 0.27 mol, 19.3 g | S.[Na]
solvent | cellosolve | CCOCCO | C4H10O2
product | 5-Mercapto-3-methyl-1-phenyl-1H-pyrazole-4-carboxylic acid (2-pyridin-2-yl-ethyl) amide | 24.0 g | N1=C(C=CC=C1)CCNC(=O)C=1C(=NN(C1S)C1=CC=CC=C1)C | C18H18N4OS
